US07470723B2
N,N-diisopropylethylamine (1.5 mL, 8.6 mmol) was added to a mixture of (E/Z) 3-(3-amino-4-methoxy-phenyl)-3-(3-ethoxy-4-methoxy-phenyl)-acrylonitrile (0.70 g, 2.2 mmol) and dimethylcarbamyl chloride (1.6 mL, 17.3 mmol). The reaction mixture was heated at 85° C. for 3 h. CH2Cl2 (100 ml) was added and the mixture was extracted with water (2×50 mL), 4 N HCl (2×50 mL), water (2×50 mL), saturated NaHCO3 (2×50 mL), brine (50 mL) and dried (MgSO4). Removal of solvent and chromatography (Silica Gel) gave a mixture of (E/Z) 3-{5-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-vinyl]-2-methoxy-phenyl}-1,1-dimethyl-urea as a solid (0.59 g, 69% yield): mp, 143-145° C.; 1H NMR (CDCl3) δ 1.40-1.47 (m, 6H, 2CH3), 3.02-3.05 (2s, 12H, 4CH3), 3.88-3.94 (3s, 12H, 4OCH3), 3.99-4.12 (m, 4H, 2CH2), 5.55-5.61 (2s, 2H, 2CH), 6.79-7.18 (m, 12H, Ar), 8.18-8.36 (m, 2H, 2NH); 13C NMR (CDCl3) δ 14.71, 36.33, 55.93, 56.00, 64.46, 92.06, 92.33, 109.21, 109.30, 110.93, 110.99, 112.74, 114.22, 118.56, 118.69, 118.79, 120.27, 122.25, 123.06, 123.41, 123.74, 128.97, 129.24, 129.73, 130.11, 131.68, 132.25, 147.83, 148.14, 148.81, 149.27, 150.68, 151.37, 155.22, 155.31, 162.66, 163.11; Anal. Calcd for C22H25N3O4: C, 66.82; H, 6.37; N, 10.63. Found: C, 66.84; H, 6.48; N, 10.43.

reactant | N,N-diisopropylethylamine | 8.6 mmol, 1.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(3-amino-4-methoxy-phenyl)-3-(3-ethoxy-4-methoxy-phenyl)-acrylonitrile | 2.2 mmol, 0.70 g | NC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=C(C=C1)OC)OCC | C19H20N2O3
reactant | dimethylcarbamyl chloride | 17.3 mmol, 1.6 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-{5-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-vinyl]-2-methoxy-phenyl}-1,1-dimethyl-urea | 0.59 g, 69% yield | C(#N)C=C(C1=CC(=C(C=C1)OC)OCC)C=1C=CC(=C(C1)NC(N(C)C)=O)OC | C22H25N3O4
